US05661186
(+)-N-[2-(1,2,3,4-tetrahydro-7-methoxynaphthalen-1-yl)ethyl]methoxyacetamide.
N-[2-(1,2,3,4-tetrahydro-7-methoxynaphthalen-1-yl)ethyl]amine was resolved according to the general procedure described in example 1 using L-tartartic add and was shown to have an enantiomeric excess of ≤99% by HPLC analysis. The HPLC analyses were carried out as described in example 3. The amine was converted to the amide according to General Procedure A using methoxyacetyl chloride. The final product was purified by reversed phase HPLC using acetonitrile/water to give a white solid. m.p.=58°-60° C.; 1H NMR (300 MHz, CDCl3) δ6.96 (d, J=8 Hz, 1H), 6.67 (s, 1H), 6.65 (m, 1H), 6.50 (bs, 1H), 3.86 (s, 2H), 3.76 (s, 3H), 3.43 (m, 2H), 3.38 (s, 3H), 2.79 (m, 1H), 2.66 (bm, 2H), 1.9-1.7 (bm, 4H), 1.67-1.63 (m, 2H); 3C NMR (75 MHz, CDCl3) δ169.44, 157.57, 141.26, 130.03, 129.24, 113.36, 111.82, 72.03, 59.17, 55.30, 36.94, 36.47, 35.66, 28.74, 27.52, 20.02; IR (KBr) 1658 cm-1 ; MS (DCI) m/e (MH)278; Analysis calc'd for C16H23N1O3 : C, 69.29; H, 8.36; N, 5.05; found: C, 69.17; H, 8.37; N, 4.92; [α] (20° C., 589 nm, CHCl3)=+6.96.

reactant | N-[2-(1,2,3,4-tetrahydro-7-methoxynaphthalen-1-yl)ethyl]amine | COC1=CC=C2CCCC(C2=C1)CCN | C13H19NO
reactant | methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
reactant | KBr | [K+].[Br-]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (+)-N-[2-(1,2,3,4-tetrahydro-7-methoxynaphthalen-1-yl)ethyl]methoxyacetamide | COC1=CC=C2CCCC(C2=C1)CCNC(COC)=O | C16H23NO3
